US04933328
(a) 4-chlorothiobenzamide
68.8 g (0.5 mol) of 4-chlorobenzonitrile were dissolved in a mixture of 100 ml pyridine and 50 ml triethylamine. Whilst stirring, an even flow of 15 l (0.67 mol/hour) of hydrogen sulphide was introduced at room temperature, then 11 l (0.5 mol/hour) for 30 min at 50° C., i.e. a total of 1.25 mol. This was then stirred for a further 30 min at 50° C. and then mixed into 1.5 liters of water. The crystallate was drawn off, washed with plenty of water and dried,

reactant | 4-chlorobenzonitrile | 0.5 mol, 68.8 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | hydrogen sulphide | 15 l | S | H2S
reactant | water | 1.5 liters | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | 4-chlorothiobenzamide | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
